US08211908B2
To a suspension of 0.40 g of 7-bromo-1-((1,3-dioxolan-2-yl)methyl)-1,5-naphthyridin-2(1H)-one in 4 mL of dioxane, 0.18 g of tert-butyl carbamate, 0.59 g of cesium carbonate, 22 mg of 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene, and 18 mg of tris(dibenzylideneacetone)dipalladium(0) were added at room temperature, and the mixture was stirred at 90 to 95° C. for 4 hour 15 minutes. After cooling to the room temperature, chloroform and water were added to the reaction mixture, the organic layer was separated, and washed with water and a saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, diethyl ether was added to the resultant residue and the solid was filtered off to obtain 0.29 g of tert-butyl (5-(1,3-dioxolan-2-yl)methyl-6-oxo-5,6-dihydro-1,5-naphthyridin-3-yl)carbamate as a light yellow solid.

reactant | 7-bromo-1-((1,3-dioxolan-2-yl)methyl)-1,5-naphthyridin-2(1H)-one | 0.40 g | BrC1=CN=C2C=CC(N(C2=C1)CC1OCCO1)=O | C12H11BrN2O3
reactant | tert-butyl carbamate | 0.18 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 0.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 18 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 22 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | water | O | H2O
product | tert-butyl (5-(1,3-dioxolan-2-yl)methyl-6-oxo-5,6-dihydro-1,5-naphthyridin-3-yl)carbamate | 0.29 g | O1C(OCC1)CN1C=2C=C(C=NC2C=CC1=O)NC(OC(C)(C)C)=O | C17H21N3O5
